* source REGULADOR
M_M1         +V CK1 N00307 -V Mbreakn           
D_D7         OUT2 N14723 D1N4148 
C_C4         N14723 N16084  10u  
R_R1         OUT2 0  100k  
M_M8         0 NCK1 N09175 +V Mbreakp           
M_M3         N00307 NCK1 +V +V Mbreakp           
M_M4         OUT NCK2 N09175 +V MbreakP           
C_C1         N12822 N00307  10u  
V_V6         NCK2 0  
+PULSE {VH} {VL} {PER/2} {TR} {TF} {PW} {PER}
V_V2         0 -V 3.3
V_V3         CK1 0  
+PULSE {VL} {VH} 0 {TR} {TF} {PW} {PER}
R_R5         N09175 N16084  .01  
M_M7         N00307 NCK2 0 +V MbreakP           
C_C2         N12606 0  10u  
M_M6         N09175 CK1 0 -V Mbreakn           
R_R4         N15629 0  .01  
V_V4         NCK1 0  
+PULSE {VH} {VL} 0 {TR} {TF} {PW} {PER}
M_M2         N09175 CK2 OUT -V Mbreakn           
M_M5         0 CK2 N00307 -V Mbreakn           
V_V5         CK2 0  
+PULSE {VL} {VH} {PER/2} {TR} {TF} {PW} {PER}
D_D6         N14723 OUT D1N4148 
V_V1         +V 0 3.3
R_R3         N12822 N09175  .01  
C_C3         OUT2 N15629  10u  
R_R2         N12606 OUT  .01  
.PARAM  TF={0.01*PER} VH=3.3 PW={0.45*PER} VL=-3.3 PER=100u TR={0.01*PER}
